US05767131
3-(4-Hydroxy-4-phenylpiperidin-1-yl)propionitrile
To a solution of 4-hydroxy-4-phenylpiperidine (3.11 g, 17.5 mmol, 1.00 equiv) in EtOH (30 mL) was added acrylonitrile (2.89 mL, 43.8 mmol, 2.50 equiv) dropwise at 0° C. The mixture was stirred at room temperature for 1.5 hours and then concentrated to afford 3.71 g (92%) of white solid, which was characterized spectroscopically.

reactant | 4-hydroxy-4-phenylpiperidine | 17.5 mmol, 3.11 g, 1.00 equiv | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | acrylonitrile | 43.8 mmol, 2.89 mL, 2.50 equiv | C(C=C)#N | C3H3N
solvent | EtOH | 30 mL | CCO | C2H6O
product | 3-(4-Hydroxy-4-phenylpiperidin-1-yl)propionitrile | 3.71 g, 92% | OC1(CCN(CC1)CCC#N)C1=CC=CC=C1 | C14H18N2O
